US07420055B2
Synthesis of (2-Amino-5-chloro-phenyl)-(3-methyl-[1,2,3]triazol4-yl)-methanone
To 31 mg (0.12 mmol) of (5-Chloro-2-nitro-phenyl)-(3-methyl-[1,2,3]triazol4-yl)-methanone in 1.5 ml of methanol were added 0.05 ml of 12M HCl and 200 mg (0.89 mmol) of stannous (II) chloride monohydrate, and the mixture was heated at 100° C. for four hours. The mixture was then cooled to ambient temperature, partitioned between 1M NaOH and ethyl acetate, and the phases were separated. The ethyl acetate phase was washed once each with water and brine, dried over Na2SO4, filtered, and concentrated in vacuo to a solid. The solid was chromatographed to give the title product as a yellow solid.

reactant | (5-Chloro-2-nitro-phenyl)-(3-methyl-[1,2,3]triazol4-yl)-methanone | 0.12 mmol, 31 mg | ClC=1C=CC(=C(C1)C(=O)C=1N(N=NC1)C)[N+](=O)[O-] | C10H7ClN4O3
reactant | HCl | 12M, 0.05 ml | Cl | ClH
solvent | methanol | 1.5 ml | CO | CH4O
product | (2-Amino-5-chloro-phenyl)-(3-methyl-[1,2,3]triazol4-yl)-methanone | NC1=C(C=C(C=C1)Cl)C(=O)C=1N(N=NC1)C | C10H9ClN4O
